US04988703
1-(2'-(1",2"-Dihydroxyethyl)cyclopropyl)cytosine
To 85.8 mg (0.42 mmol) of 1-(2'-(1",2"-dihydroxyethyl) cyclopropyl)uracil, the product of Step B of Example 9, is added 0.44 mL (2.1 mmol) of hexamethyldisilazane and 0.034 mL (0.82 mmol) of formamide and the resultant mixture is heated with stirring in a sealed tube at 140° C. After 85 h, 10 mL of methanol is added to the cooled reaction mixture, the tube resealed and heated to 65° C. After 3 h at 65° C., the cooled reaction mixture is concentrated under reduced pressure. The residue is dissolved in 10 mL of water and the resultant aqueous solution treated with 50 mg of Darco G-60 charcoal, filtered and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel eluted with a gradient of methanol in methylene chloride from 100% methylene chloride to 30% methanol affords the title compound.

reactant | 1-(2'-(1",2"-dihydroxyethyl) cyclopropyl)uracil | 0.42 mmol, 85.8 mg | OC(CO)C1C(C1)N1C(=O)NC(=O)C=C1 | C9H12N2O4
reactant | hexamethyldisilazane | 2.1 mmol, 0.44 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | formamide | 0.82 mmol, 0.034 mL | C(=O)N | CH3NO
solvent | methanol | 10 mL | CO | CH4O
product | 1-(2'-(1",2"-Dihydroxyethyl)cyclopropyl)cytosine | OC(CO)C1C(C1)N1C(=O)N=C(N)C=C1 | C9H13N3O3
